US07601844B2
Step 1: 3-(Methoxycarbonyl)-4-methylbenzoic acid
A parr reactor was charged with 3-bromo-4-methylbenzoic acid, MeOH (50 mL), palladium acetate (0.44 g, 1.95 mmol), bis(1,3-diphenylphosphino)propane, and potassium carbonate (4.0 g, 29.3 mmol) was pressurized to 80 psi with carbon monoxide gas. The reaction was maintained at this temperature for 48 h. The reaction was cooled, acidified with 1 N HCl, and extracted with methylene chloride. The organic extracts were dried over sodium sulfate, filtered, concentrated and then purified by reverse phase HPLC to yield the title compound.

reactant | 3-bromo-4-methylbenzoic acid | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | bis(1,3-diphenylphosphino)propane | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | potassium carbonate | 29.3 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
reactant | HCl | 1 N | Cl | ClH
catalyst | palladium acetate | 1.95 mmol, 0.44 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | MeOH | 50 mL | CO | CH4O
product | 3-(Methoxycarbonyl)-4-methylbenzoic acid | COC(=O)C=1C=C(C(=O)O)C=CC1C | C10H10O4
